US08071631B2
3,4-Dimethoxy-N-[5-(4-methoxyphenyl)-pyrimidine-2-yl]benzenesulfonamide
To a solution of 5-(4-methoxyphenyl)pyrimidin-2-amine (302 mg, 1.5 mmol) in 10 mL of dry pyridine was added 3,4-dimethoxybenzenesulfonyl chloride (398 mg, 1.68 mmol). The solution was stirred at room temperature under Argon. After 24 h, the pyridine was removed in vacuo and flashed off with toluene. The residue was partitioned between EtOAc and 1M HCl. EtOAc phase was washed with water to neutral, dried over Na2SO4 and evaporated in vacuo to give 0.20 g of a solid which was taken up in 4 mL of hot HOAc, diluted with 2 mL of water which initiated crystallization to give 181 mg of product with mp 218-220° C.

reactant | 5-(4-methoxyphenyl)pyrimidin-2-amine | 1.5 mmol, 302 mg | COC1=CC=C(C=C1)C=1C=NC(=NC1)N | C11H11N3O
reactant | 3,4-dimethoxybenzenesulfonyl chloride | 1.68 mmol, 398 mg | COC=1C=C(C=CC1OC)S(=O)(=O)Cl | C8H9ClO4S
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 3,4-Dimethoxy-N-[5-(4-methoxyphenyl)-pyrimidine-2-yl]benzenesulfonamide | 0.20 g | COC=1C=C(C=CC1OC)S(=O)(=O)NC1=NC=C(C=N1)C1=CC=C(C=C1)OC | C19H19N3O5S
